US07799820B2
Synthesis of 4-fluoro-2-(2-fluorophenoxy)-1-nitrobenzene
With cooling with ice, 377 mg of sodium hydride (30% liquid paraffin added) was added to a tetrahydrofuran solution of 2,4-difluoro-1-nitrobenzene (1 g), and then o-fluorophenol (775 mg) was added, and stirred at room temperature for 2 hours. Water was added, then extracted with ethyl acetate, and the organic layer was washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate) to obtain the entitled compound.

reactant | sodium hydride | 377 mg | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2,4-difluoro-1-nitrobenzene | 1 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | o-fluorophenol | 775 mg | FC1=C(C=CC=C1)O | C6H5FO
solvent | Water | O | H2O
product | 4-fluoro-2-(2-fluorophenoxy)-1-nitrobenzene | FC1=CC(=C(C=C1)[N+](=O)[O-])OC1=C(C=CC=C1)F | C12H7F2NO3
